US04526608
A mixture of 4-(3,5-dichloro-2-pyridyloxy)-1,2-dinitrobenzene (800 mg, 2.42 mmol), N-methylhydroxyamine (472 mg, 4.84 mmol), K2CO3 (400 mg, 2.90 mmol) and THF (10 ml) is stirred at RT for 48 hours. The reaction mixture is filtered, and the filtrate is concentrated and then taken up in methylene chloride, washed, dried and evaporated to give N-methyl-N-[2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenyl]-hydroxyamine, a crystalline solid.

reactant | 4-(3,5-dichloro-2-pyridyloxy)-1,2-dinitrobenzene | 2.42 mmol, 800 mg | ClC=1C(=NC=C(C1)Cl)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H5Cl2N3O5
reactant | N-methylhydroxyamine | 4.84 mmol, 472 mg | CNO | CH5NO
reactant | K2CO3 | 2.90 mmol, 400 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-methyl-N-[2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenyl]-hydroxyamine | CN(C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)Cl)[N+](=O)[O-])O | C12H9Cl2N3O4
